US07504401B2
5-Amino-pyridine-2-carbonitrile was coupled with 1,3,5-tribromobenzene to give 5-(3,5-dibromo-phenylamino)-pyridine-2-carbonitrile by the method described in Example 44. 5-(3,5-Dibromo-phenylamino)-pyridine-2-carbonitrile was converted to [3-bromo-5-(6-cyano-pyridin-3-ylamino)-phenyl]-carbamic acid methyl ester using the conditions in Example 86, replacing methylsulfonamide with carbamic acid methyl ester. [3-Bromo-5-(6-cyano-pyridin-3-ylamino)-phenyl]-carbamic acid methyl ester was converted to [3-(6-cyano-pyridin-3-ylamino)-5-(1H-indol-4-yl)-phenyl]-carbamic acid methyl ester as described in Example 102. 1H NMR (400 MHz, acetone-d6): δ 10.41 (s, 1H), 8.84 (s, 1H), 8.50 (d, J=2.5 Hz, 1H), 8.44 (s, 1H), 7.72-7.63 (m, 4H), 7.46 (d, J=7.6 Hz, 1H), 7.42 (t, J=2.7 Hz, 1H), 7.26 (s, 1H), 7.23-7.14 (m, 2H), 6.75 (s, 1H), 3.73 (s, 3H).

reactant | 5-Amino-pyridine-2-carbonitrile | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | 1,3,5-tribromobenzene | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
product | 5-(3,5-dibromo-phenylamino)-pyridine-2-carbonitrile | BrC=1C=C(C=C(C1)Br)NC=1C=CC(=NC1)C#N | C12H7Br2N3
